US07888376B2
(R)-tert-butyl 2-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethylcarbamoyl)-4,4-difluoropyrrolidine-1-carboxylate (33.9 mg, 0.05 mmol) was dissolved in a solution of TFA/CH2Cl2 (2 mL/2 mL) and the reaction mixture was stirred overnight. The solvent was removed and the residue dissolved in MeOH and purified by preparative HPLC (Phenoma Luna AXIA 100A, C18; mobile phase: MeCN/H2O/TFA) to yield (R)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,4-difluoropyrrolidine-2-carboxamide as a white solid (22.4 mg, 78% yield). LC/MS RT=3.876 min; [M+H]=576.2 (LCMS Method 3). NMR: 500 MHz 1H (CDCl3); 8.35 ppm, 1H, d, J=5 Hz;, 7.79 ppm, 1H, m; 7.38 ppm, 1H, d, J=10 Hz; 7.17 ppm, 1H, m; 7.04 ppm, 4H, m; 6.89 ppm, 1H, m; 6.51 ppm, 1H, d, J=5 Hz; 6.21 ppm, 1H; m; 4.56 ppm, 1H′ t, J=9 Hz; 4.19 ppm, 1H, d, J=13 Hz; 3.84 ppm, 1H, d, J=13 Hz; 3.60 ppm, 2H′ t, J=12 Hz; 2.68 ppm, 1H, m; 2.22 ppm, 1H, m.

reactant | (R)-tert-butyl 2-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethylcarbamoyl)-4,4-difluoropyrrolidine-1-carboxylate | 0.05 mmol, 33.9 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)[C@@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C31H29ClF7N3O4
solvent | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (R)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,4-difluoropyrrolidine-2-carboxamide | 22.4 mg, 78% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)[C@@H]1NCC(C1)(F)F | C26H21ClF7N3O2
